US07396958B2
N-{4-chloro-2-[1-(2-chlorophenyl)-1-hydroxyethyl]phenyl}N-[(3,4-dimethoxyphenyl)sulfonyl]glycinamide
To 1.3 g of N-{4-chloro-2-[1-(2-chlorophenyl)-1-hydroxyethyl]phenyl}-3,4-dimethoxybenzenesulfonamide dissolved in diethyl ether are successively added, at −5° C., 1.3 ml of a 2M solution of lithium diisopropylamine in hexane, and 0.45 g of 2-bromoacetamide. After 18 hours at room temperature, 0.5 g of 2-bromoacetamide and 1.4 g of sodium iodide are successively added and the mixture is refluxed for 4 hours. The reaction medium is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a 95/5 (v/v) dichloromethane/methanol mixture to give 0.51 g of the expected product.

reactant | N-{4-chloro-2-[1-(2-chlorophenyl)-1-hydroxyethyl]phenyl}-3,4-dimethoxybenzenesulfonamide | 1.3 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(C)(O)C1=C(C=CC=C1)Cl | C22H21Cl2NO5S
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | 2-bromoacetamide | 0.45 g | BrCC(=O)N | C2H4BrNO
reactant | 2-bromoacetamide | 0.5 g | BrCC(=O)N | C2H4BrNO
reactant | sodium iodide | 1.4 g | [I-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{4-chloro-2-[1-(2-chlorophenyl)-1-hydroxyethyl]phenyl}N-[(3,4-dimethoxyphenyl)sulfonyl]glycinamide | 0.51 g | ClC1=CC(=C(C=C1)N(C(CN)=O)S(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(C)(O)C1=C(C=CC=C1)Cl | C24H24Cl2N2O6S
